US08580832B2
4-[2-Fluoro-4-(2-morpholin-4-yl-4-oxo-4H-thiazol-5-ylidenemethyl)-phenoxy]-3-trifluoromethyl-benzonitrile was prepared using 4-[2-Fluoro-4-(2-methylsulfanyl-4-oxo-4H-thiazol-5-ylidenemethyl)-phenoxy]-3-trifluoromethyl-benzonitrile and morpholine as described in Example 5C. 1H NMR (400 Hz, DMSO-d6) δ 8.40 (bs, 1H), 8.10 (d, 1H), 7.74 (d, 1H), 7.69 (s, 1H), 7.55 (m, 2H), 7.18 (d, 1H), 3.92 (bs, 2H), 3.71 (m, 6H); LC/MS (m/z) [M+1]+478.2 (calculated for C22H16F4N3O3S, 478.43).

reactant | 4-[2-Fluoro-4-(2-methylsulfanyl-4-oxo-4H-thiazol-5-ylidenemethyl)-phenoxy]-3-trifluoromethyl-benzonitrile | FC1=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)C=C1C(N=C(S1)SC)=O | C19H10F4N2O2S2
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-[2-Fluoro-4-(2-morpholin-4-yl-4-oxo-4H-thiazol-5-ylidenemethyl)-phenoxy]-3-trifluoromethyl-benzonitrile | FC1=C(OC2=C(C=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)C=C1C(N=C(S1)N1CCOCC1)=O | C22H15F4N3O3S
